US03991070
Following the procedure of Example 1, 5-chloro-2-(3-phthalimidomethyl-4H-1,2,4-triazol-4-yl)benzophenone is reacted with N-chlorohexanoamide to form 5-chloro-2-(3-chloro-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)benzophenone.

reactant | 5-chloro-2-(3-phthalimidomethyl-4H-1,2,4-triazol-4-yl)benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C24H15ClN4O3
reactant | N-chlorohexanoamide | ClNC(CCCCC)=O | C6H12ClNO
product | 5-chloro-2-(3-chloro-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)Cl | C24H14Cl2N4O3
